US09388402B2
Production Scale, CaCl2/Histidine/NaCl FVIII Release Composition Capture Step
The performance of the release procedure, using 50 mM CaCl2, 50 mM histidine and 100 mM NaCl is not scale dependent. The FVIII recovery increases with more than 9 times for a batch size of 150 kg. In addition, the resulting FVIII solution could be further concentrated through a capture anion exchanger. The volume reduction factor over the capture step was 165 times and the process time was about 4 h.

reactant | CaCl2 | 50 mM | [Cl-].[Cl-].[Ca+2]
reactant | histidine | 50 mM | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
reactant | NaCl | 100 mM | [Na+].[Cl-]
product | CaCl2 Histidine NaCl | [Cl-].[Cl-].[Ca+2].N[C@@H](CC1=CNC=N1)C(=O)O.[Na+].[Cl-] | InChI=1S/C6H9N3O2.Ca.3ClH.Na/c7-5(6(10)11)1-4-2-8-3-9-4;;;;;/h2-3,5H,1,7H2,(H,8,9)(H,10,11);;3*1H;/q;+2;;;;+1/p-3/t5-;;;;;/m0...../s1
